US04159331
In the manner given in Example 1C, 4,7-dichloroquinoline is heated with 1-[(p-aminophenyl)sulfonyl]-4-(p-propoxyphenyl)piperazine to give 1-(p-propoxyphenyl)-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]-sulfonyl]piperazine.

reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1-[(p-aminophenyl)sulfonyl]-4-(p-propoxyphenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCC | C19H25N3O3S
product | 1-(p-propoxyphenyl)-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]-sulfonyl]piperazine | C(CC)OC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C28H29ClN4O3S
